US07935695B2
2-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyrimidin-5-ylamine free base (Intermediate Compound)
A mixture of 4-(5-nitro-pyrimidin-2-yl)-1,4-diaza-bicyclo[3.2.2]nonane (0.71 g, 2.85 mmol), palladium (0.25 g, 10% on activated carbon) and methanol (50 ml) was stirred under hydrogen for 10 min. The reaction-mixture was filtered through celite and was washed with ethanol (50 ml). The product was dried and evaporated. Yield 100%.

reactant | 4-(5-nitro-pyrimidin-2-yl)-1,4-diaza-bicyclo[3.2.2]nonane | 2.85 mmol, 0.71 g | [N+](=O)([O-])C=1C=NC(=NC1)N1CCN2CCC1CC2 | C11H15N5O2
catalyst | palladium | 0.25 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 2-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyrimidin-5-ylamine | Yield 100% | N12CCN(C(CC1)CC2)C2=NC=C(C=N2)N | C11H17N5
